US07229998B2
Ethyl 2-[4-(chlorosulfonyl)phenoxy]-2-methylpropanoate
Cool a solution of the ethyl 2-methyl-2-phenoxypropanoate, (1.0 wt, 1.0 eq), in dichloromethane (7.5 vols) to 0° C. with stirring under a nitrogen atmosphere. Slowly add neat chlorosulfonic acid (0.78 wt, 1.4 eq) to the reaction mixture at a rate such that the reaction temperature never rises above 5.0° C. The addition typically takes 30 minutes to complete. Following the completion of the addition, stir the reaction mixture at 0–1° C. Follow the course of the reaction by HPLC. The reaction is typically complete after 30 minutes. At this point, slowly treat the reaction mixture with DMF (1.75 L) (1.40 wt, 4.0 eq). The addition of DMF to the reaction mixture is very exothermic. Adjust the rate of addition so that the reaction temperature never rises above 10.0° C. The addition of DMF to the reaction mixture takes approximately 30 minutes. Following the completion of the DMF addition, re-cool the reaction mixture to 0.5 to 1° C. Treat the cooled reaction mixture with neat thionyl chloride (619 mL, 1.01 kg) (0.86 wt, 1.5 eq). Adjust the rate of addition so that the process temperature never reaches 5.0° C. The addition of thionyl chloride to the reaction mixture is not very exothermic at all. Hence, the addition of thionyl chloride is typically complete in 5 minutes. Following the completion of the DMF addition, warm the reaction mixture to 20° C. with stirring. Follow the course of the reaction via HPLC. After 2.0 h, the reaction is typically complete. At this point, cool the reaction mixture to 0–1° C. and carefully treat the reaction mixture with water (8.8 L) (7.5 vols). [Note: The addition of water may be somewhat exothermic depending upon how much unreacted thionyl chloride is left in the reaction mixture.] Separate the organic layer and wash the organic layer with aqueous 0.1N HCl solution (2×7.5 vols). Separate the organic layer, concentrate the organic layer to a minimum stir volume, treat the organic layer with isopropyl acetate (1×5.0 vols) and then concentrate the resulting solution via vacuum distillation to afford the titled compound as a translucent bronze colored oil.

reactant | ethyl 2-methyl-2-phenoxypropanoate | 1.0 eq | CC(C(=O)OCC)(C)OC1=CC=CC=C1 | C12H16O3
reactant | chlorosulfonic acid | 1.4 eq | ClS(=O)(=O)O | ClHO3S
reactant | DMF | 1.75 L, 4.0 eq | CN(C)C=O | C3H7NO
reactant | thionyl chloride | 619 mL, 1.01 kg, 1.5 eq | S(=O)(Cl)Cl | Cl2OS
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | water | O | H2O
solvent | water | 8.8 L | O | H2O
product | Ethyl 2-[4-(chlorosulfonyl)phenoxy]-2-methylpropanoate | ClS(=O)(=O)C1=CC=C(OC(C(=O)OCC)(C)C)C=C1 | C12H15ClO5S
